US07528147B2
A solution of 0.54 g of 4-chloro-2-[5,6-dimethoxy-1-(2-morpholin-4-ylethyl)-1H-indol-3-yl]-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine and 1.8 g of potassium hydroxide in 18 ml of methanol is brought to around 60° C. for approximately 2 hours. After cooling to approximately 20° C., the precipitate is filter-dried, washed with two times 3 ml of methanol and three times 5 ml of water, and then dried in an oven under reduced pressure (13 kPa) at a temperature in the region of 40° C. for approximately 8 hours. 0.241 g of 4-chloro-2-[5,6-dimethoxy-1-(2-morpholin-4-ylethyl)-1H-indol-3-yl]-1H-pyrrolo[2,3-b]pyridine is obtained in the form of a solid, the characteristics of which are as follows:

reactant | 4-chloro-2-[5,6-dimethoxy-1-(2-morpholin-4-ylethyl)-1H-indol-3-yl]-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 0.54 g | ClC1=C2C(=NC=C1)N(C(=C2)C2=CN(C1=CC(=C(C=C21)OC)OC)CCN2CCOCC2)S(=O)(=O)C2=CC=C(C=C2)C | C30H31ClN4O5S
reactant | potassium hydroxide | 1.8 g | [OH-].[K+]
solvent | methanol | 18 ml | CO | CH4O
product | 4-chloro-2-[5,6-dimethoxy-1-(2-morpholin-4-ylethyl)-1H-indol-3-yl]-1H-pyrrolo[2,3-b]pyridine | 0.241 g | ClC1=C2C(=NC=C1)NC(=C2)C2=CN(C1=CC(=C(C=C21)OC)OC)CCN2CCOCC2 | C23H25ClN4O3
